US06855710B2
a) 4-(2-dimethylamino-ethylamino)-nitrobenzene
2.2 ml of (20 mmol) of 4-fluoronitrobenzene and 2.6 ml (24 mmol) of N,N-dimethylethylene-diamine are heated in 10 ml of ethanol at 120° C. in a microwave oven for 1.5 hours. Then 50 ml of 1 N hydrochloric acid are added. The reaction solution is washed with ethyl acetate. Then the aqueous phase is combined with 4 N sodium hydroxide solution until an alkaline reaction is obtained and extracted with ethyl acetate.

reactant | 4-fluoronitrobenzene | 20 mmol, 2.2 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-dimethylethylene-diamine | 24 mmol, 2.6 ml | CN(CCN)C | C4H12N2
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
